US04874775
N-(2-fluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 6 g. portion of 3-(2-fluorophenylaminomethyl)pyridine was dissolved in 50 ml. of acetone, and 5 g. of potassium carbonate and 5 g. of methanesulfonyl chloride were added. The mixture was stirred at ambient temperature overnight, and then under reflux for 6 hours. The mixture was cooled and filtered, and the filtrate was concentrated under vacuum to obtain 7.4 g. of an oil, which was chromatographed on silica gel, eluting with 1:4 acetone:toluene. Combination of the product-containing fractions and evaporation gave 9.7 g. of the desired product, m.p. 120°.

reactant | 3-(2-fluorophenylaminomethyl)pyridine | FC1=C(C=CC=C1)NCC=1C=NC=CC1 | C12H11FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetone | CC(=O)C | C3H6O
product | N-(2-fluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | FC1=C(C=CC=C1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C13H13FN2O2S
